US04602092
[Hydroxy-(4-phenylbutyl)phosphinyl]acetic acid, phenylmethyl ester
To a solution of 4-phenylbutyl phosphonous acid (2.0 g, 0.01 mole) in chloroform (40 ml) was added triethylamine (3.2 ml, 0.022 mole) and cooled in an ice bath to 0° C. Trimethyl silyl chloride (2.8 ml, 0.022 mole) was added to the above solution dropwise, followed by benzyl bromoacetate (1.6 ml, 0.011 mole). The ice bath was removed and the mixture stirred at room temperture for 5 hours and poured into 10% aqueous HCl (30 ml) and crushed ice (20 g). After shaking the mixture in a separatory funnel, the chloroform layer was separated and the aqueous layer extracted with dichloromethane (2×50 ml). The combined organic phase was washed with brine, dried over anhydrous sodium sulfate and the solvents removed on a rotavap. The resulting crude thick oil (3.5 g) was dissolved in 30 ml ether; hexane was added dropwise to get a turbid solution and left at room temperature overnight to complete the crystallization. The resulting product was cooled in the freezer for 2 hours, filtered and the solid was washed very thoroughly with hexane (50 ml), ether (50 ml) and again very thoroughly with hexane (50 ml), ether (50 ml) in that order. The solid was vacuum dried to get 2.48 g (71%) of title compound, m.p. 68°-70° C. TLC: Silica gel, CH2Cl2 :MeOH:HOAc (20:1:1) shows a single spot at Rf =0.25.

reactant | 4-phenylbutyl phosphonous acid | 0.01 mole, 2.0 g | C1(=CC=CC=C1)CCCCP(O)O | C10H15O2P
reactant | triethylamine | 0.022 mole, 3.2 ml | C(C)N(CC)CC | C6H15N
reactant | Trimethyl silyl chloride | 0.022 mole, 2.8 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | benzyl bromoacetate | 0.011 mole, 1.6 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | [Hydroxy-(4-phenylbutyl)phosphinyl]acetic acid, phenylmethyl ester | 2.48 g, 71% | OP(=O)(CCCCC1=CC=CC=C1)CC(=O)OCC1=CC=CC=C1 | C19H23O4P
